US20010056179A1
A mixture of 5-hydroxy-6-methoxynaphthalene (2.10 g, 12.1 mmole), cesium carbonate (19.7 g, 60.5 mmole), N,N-dimethylformamide (12 ml) and 2-bromopropane (3.50 ml, 36.9 mmole) was stirred in a 40° C. oil bath overnight. The reaction mixture was filtered and the solid residue was rinsed thoroughly with ethyl ether. The filtrate and the washings were combined and concentrated in vacuo to remove most of the solvents. The brown residue was partitioned between water and ether and the layers were separated. The ether layer was washed with water. The combined aqueous layers were back extracted with ether. The ether extracts were combined, washed with brine and dried over sodium sulfate. Filtration and concentration gave a crude which was purified by column chromatography (2.5→5% ethyl acetate/hexanes) to give 1-isopropoxy-6-methoxynaphthalene (2.23 g, 86% yield) as a light brown oil. 1H NMR (CDCl3) δ8.17 (1H, d, phenyl), 7.05-7.38 (4H, m, phenyl), 6.72 (1H, dd, phenyl), 4.73 (1H, m, CH of iPr), 3.92 (3H, s, OCH3), 1.42 (6H, d, 2 CH3 of iPr).

reactant | 5-hydroxy-6-methoxynaphthalene | 12.1 mmole, 2.10 g | OC1=C2C=CC=CC2=CC=C1OC | C11H10O2
reactant | cesium carbonate | 60.5 mmole, 19.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromopropane | 36.9 mmole, 3.50 ml | BrC(C)C | C3H7Br
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
product | 1-isopropoxy-6-methoxynaphthalene | 2.23 g, 86% yield | C(C)(C)OC1=CC=CC2=CC(=CC=C12)OC | C14H16O2
